US08258130B2
A solution of 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid chloride (0.62 mmol) in EtOAc (10 mL) is added to a stirred solution of 5-methanesulfonyl-indole-1-ylamine (0.62 mmol) and K2CO3 (3.08 mmol) in EtOAc (10 mL) and H2O (10 mL) at 0° C., and the reaction mixture is warmed to rt and stirred overnight. EtOAc is evaporated in vacuo, and the resulting solid is collected by filtration. The solid is triturated with DCM to afford 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (5-methanesulfonyl-indol-1-yl)-amide (85 mg, 34%) as a solid. MS: 411 (M+H); 1H NMR (300 MHz, CD3OD): δ 3.13 (s, 3H), 6.81 (m, H) 7.25-7.39 (m, H), 7.49-7.67 (m, 3H), 7.72-7.84 (m, H), 8.21-8.32 (m, 2H), 8.39 (d, H), 9.41 (s, 2H).

reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid chloride | 0.62 mmol | FC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)Cl | C11H6ClFN2O
reactant | 5-methanesulfonyl-indole-1-ylamine | 0.62 mmol | CS(=O)(=O)C=1C=C2C=CN(C2=CC1)N | C9H10N2O2S
reactant | K2CO3 | 3.08 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 10 mL | O | H2O
product | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (5-methanesulfonyl-indol-1-yl)-amide | 85 mg, 34% | CS(=O)(=O)C=1C=C2C=CN(C2=CC1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C20H15FN4O3S
